*$
*//-----------------------------------------------------------------------//
*//   Part No.    : APXE2R5ARA181ME61G
*//   Date        : 2020/12/24
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2020 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT APXE2R5ARA181ME61G_20deg-C 1 2

C1 4 2 1.46e-04
C2 5 2 1.32e-05
C3 6 2 7.27e-06
R1 3 4 1.13e-02
R2 4 5 3.07e-01
R3 5 6 8.56e+00
L1 1 3 2.10e-09

.ENDS
